US03956301
4-Bromoisoquinoline
The same general procedure set forth in Example 1 above was followed. In a flask equipped with a reflux condenser, dropping funnel, thermometer, and stirrer was placed 33.3 g. (0.20 mole) of isoquinoline hydrochloride, together with 50 ml. of nitrobenzene, and the mixture was stirred and heated to about 180°C. to give a clear yellow solution. To this solution was added dropwise, via the dropping funnel, over a period of 1 hour and 13 minutes, 35.2 g. (0.22 mole) of bromine. The evolution of hydrogen chloride was smooth from the start to the completion of the addition of the bromine. After all the bromine had been added, the reaction mixture was of a single phase, amber red in color. Heating at about 180°C. and stirring were continued after addition of the bromine had been completed. An hour later, a few crystals of a solid material started to collect in the flask near the condenser. After 3 hours and 15 minutes of heating and stirring a very thin slurry of crystals had begun to form and hydrogen chloride evolution had become very slow. After 4 hours and 45 minutes of heating and stirring, the evolution of hydrogen chloride had practically ceased.

reactant | isoquinoline hydrochloride | 0.20 mole | Cl.C1=NC=CC2=CC=CC=C12
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | bromine | 0.22 mole | BrBr | Br2
reactant | hydrogen chloride | Cl | ClH
product | 4-Bromoisoquinoline | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
